US05112966
A solution of (3S,4S)-4-(1-carboxyethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (3.7 g) in acetone (60 ml) was treated with benzyl bromide (1.4 g) in the presence of anhydrous potassium carbonate (1.88 g) under reflux for 2 hours. The reaction mixture was cooled down to room temperature, filtered to remove insoluble materials and concentrated in vacuo. The concentrate was diluted with ethyl acetate, washed with water and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave (3S,4S)-4-(1-benzyloxycarbonylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone.

reactant | (3S,4S)-4-(1-carboxyethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 3.7 g | C(=O)(O)C(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H35NO8
reactant | benzyl bromide | 1.4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 1.88 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | (3S,4S)-4-(1-benzyloxycarbonylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | C(C1=CC=CC=C1)OC(=O)C(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C40H41NO8
